US05405861
2-Bromo-2',4'-difluoropropiophenone (141 g) was dissolved in methanol (1100 ml), to which was added sodium formate (176.2 g), and the mixture was stirred for 2 days at 50° C. Methanol was distilled off under reduced pressure. The residue was subjected to extraction by the addition of ethyl acetate (700 ml) and water (500 ml). The ethyl acetate layer was dried over magnesium sulfate, then the solvent was distilled off under reduced pressure. The residue was crystallized from hexane (200 ml) to afford 2',4'-difluoro-2-hydroxypropiophenone (50.5 g) as colorless prisms, m.p. 49°-51° C.

reactant | 2-Bromo-2',4'-difluoropropiophenone | 141 g | BrC(C(=O)C1=C(C=C(C=C1)F)F)C | C9H7BrF2O
reactant | sodium formate | 176.2 g | C(=O)[O-].[Na+]
solvent | methanol | 1100 ml | CO | CH4O
product | 2',4'-difluoro-2-hydroxypropiophenone | 50.5 g | FC1=C(C=CC(=C1)F)C(C(C)O)=O | C9H8F2O2
